US05409927
1e) H-(L)-Phe-morpholin-4-ylamide
A solution of 5.5 g of Z-(L)-Phe-morpholin-4-ylamide in 150 ml of methanol is converted into the title compound by hydrogenolysis with the calculated amount of hydrogen for 1 hour at room temperature in the presence of 1.5 g of 10% Pd/C. The catalyst is filtered off and the reaction mixture is concentrated, and after dilution with ethyl acetate the resulting solution is washed with a saturated sodium hydrogen carbonate solution, dried over sodium sulfate and concentrated under reduced pressure. After column chromatography (analogously to Example 1 g)) the title compound is obtained in pure form. TLC Rf (D)=0.3.

reactant | Z-(L)-Phe morpholin-4-ylamide | 5.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | H-(L)-Phe morpholin-4-ylamide | N[C@@H](CC1=CC=CC=C1)C(=O)O.N1(CCOCC1)[NH-] | InChI=1S/C9H11NO2.C4H9N2O/c10-8(9(11)12)6-7-4-2-1-3-5-7;5-6-1-3-7-4-2-6/h1-5,8H,6,10H2,(H,11,12);5H,1-4H2/q;-1/t8-;/m0./s1
